US07795436B2
cis-6-(2,4-Dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one
To a solution of cis-3-benzyl-6-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one (132 mg, 0.31 mmol) in MeOH (4.0 mL) was added Pd(OH)2 (26 mg, 20 wt %). The reaction mixture was stirred at 20° C. for 15 h under H2 atmosphere, filtered through celite and concentrated in vacuo to give the crude title compound.

reactant | cis-3-benzyl-6-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 0.31 mmol, 132 mg | C(C1=CC=CC=C1)N1CC[C@H]2C(C3=CC=C(C=C3[C@H]2C1)C1=C(C=C(C=C1)Cl)Cl)=O | C25H21Cl2NO
solvent | MeOH | 4.0 mL | CO | CH4O
catalyst | Pd(OH)2 | 26 mg | [OH-].[OH-].[Pd+2]
product | cis-6-(2,4-Dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | ClC1=C(C=CC(=C1)Cl)C=1C=C2[C@H]3CNCC[C@H]3C(C2=CC1)=O | C18H15Cl2NO
